US08383821B2
A solution of (3-bromo-5-(trifluoromethyl)phenyl)methanol (3.0 g, 11.8 mmol), 4-cyanophenyl boronic acid (5.2 g, 35 mmol), tetrakis(triphenylphosphine) palladium(0) (2.7 g, 2.4 mmol), and aqueous potassium hydroxide (41 mL, 1N, 41 mmol) in THF (80 mL) was degassed with nitrogen for 10 minutes and then heated at 120° C. for 18 hours. The reaction was cooled to ambient temperature and poured into water (100 mL), then was diluted with ethyl acetate (100 mL) and the layers were separated. The aqueous layer was extracted with ethyl acetate (2×20 mL) and the combined organic layers were dried with MgSO4 and evaporated. The residue was purified by chromatography on SiO2 with a gradient of ethyl acetate/hexanes of 5%-40%. The product 3′-(hydroxymethyl)-5′-(trifluoromethyl)biphenyl-4-carbonitrile (1.66 g, 51%) was obtained as a white solid. 1H-NMR (CDCl3, 400 MHz) δ 7.65-7.80 (m, 7H), 4.85 (s, 2H), 1.90 (bs, 1H). Mass spec.: 278.2 (M+H).

reactant | (3-bromo-5-(trifluoromethyl)phenyl)methanol | 11.8 mmol, 3.0 g | BrC=1C=C(C=C(C1)C(F)(F)F)CO | C8H6BrF3O
reactant | 4-cyanophenyl boronic acid | 35 mmol, 5.2 g | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
reactant | potassium hydroxide | 41 mmol, 1N, 41 mL | [OH-].[K+]
reactant | water | 100 mL | O | H2O
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine) palladium(0) | 2.4 mmol, 2.7 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 3′-(hydroxymethyl)-5′-(trifluoromethyl)biphenyl-4-carbonitrile | 1.66 g, 51% | OCC=1C=C(C=C(C1)C(F)(F)F)C1=CC=C(C=C1)C#N | C15H10F3NO
